US04066456
c. Preparation of 2-methyltetradecylamino-4-methyl-5-nitrobenzoic acid
A mixture of 21.9 grams 2-methyltetradecylamino-4-methyl-5-nitrobenzamide, 60.0 ml water, and 90.0 ml concentrated HCl was heated with stirring at reflux temperature for 16 hours, and then cooled, filtered, washed with water and vacuum dried. The crude product was digested with hot petroleum ether (b.p. = 70-100°), which was cooled and filtered, and the filter cake dried in air overnight. The product was recrystallized from a 3:1 ethanol-water mixture and then recrystallized again from petroleum ether (b.p. 90-100°). Yield = 13.3 grams. m.p. = 98-100°.

reactant | 2-methyltetradecylamino-4-methyl-5-nitrobenzamide | 21.9 grams | CC(CNC1=C(C(=O)N)C=C(C(=C1)C)[N+](=O)[O-])CCCCCCCCCCCC | C23H39N3O3
reactant | HCl | 90.0 ml | Cl | ClH
reactant | water | 60.0 ml | O | H2O
product | 2-methyltetradecylamino-4-methyl-5-nitrobenzoic acid | CC(CNC1=C(C(=O)O)C=C(C(=C1)C)[N+](=O)[O-])CCCCCCCCCCCC | C23H38N2O4
